US08859732B2
The obtained wet crystals of D-Lys(Boc)-Leu-Leu-OBzl (2-MeO-4-OC12OC22) were dissolved in chloroform (15 mL), Fmoc-D-Lys(Boc)-OH (444 mg, 948 μmol) and HOBt (12.8 mg, 94.7 μmol) were added at room temperature, and EDC HCl (200 mg, 1.04 mmol) was further added under ice-cooling. The mixture was warmed to room temperature and stirred overnight. Chloroform (20 mL), Fmoc-D-Lys(Boc)-OH (89 mg, 190 μmol) and EDC.HCl (40 mg, 210 μmol) were added, and the mixture was further stirred for 1 hr and concentrated under reduced pressure. The residue was precipitated with methanol (15 mL) to give Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OBzl (2-MeO-4-OC12OC22) (1.35 g, 85% yield relative to Bzl (2-MeO-4-OC12OC22)OH).

reactant | D-Lys(Boc)-Leu-Leu-OBzl | N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C30H50N4O6
reactant | Fmoc-D-Lys(Boc)-OH | 948 μmol, 444 mg | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H32N2O6
reactant | EDC HCl | 1.04 mmol, 200 mg | CCN=C=NCCCN(C)C.Cl
reactant | Fmoc-D-Lys(Boc)-OH | 190 μmol, 89 mg | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H32N2O6
reactant | EDC.HCl | 210 μmol, 40 mg | CCN=C=NCCCN(C)C.Cl
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | HOBt | 94.7 μmol, 12.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | Chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OBzl | 1.35 g, 85% yield | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C56H80N6O11
